US05532367
A stirred suspension of 12.0 grams (0.08 mole) of 3-amino-6-chloro-2-cyanopyridine [prepared by the method of Colbry, Elslager, and Werbel; previously cited] and 26.9 grams (0.18 mole) of sodium iodide in 300 mL of n-butanone is heated at reflux for about 3 days. After this time, the reaction mixture is concentrated under reduced pressure to a residue. The residue is then stirred with about 50 mL of water. The resultant solid is collected by filtration and washed with water. The solid is dried, yielding 3-amino-2-cyano-6-iodopyridine.

reactant | 3-amino-6-chloro-2-cyanopyridine | 0.08 mole, 12.0 grams | NC=1C(=NC(=CC1)Cl)C#N | C6H4ClN3
reactant | sodium iodide | 0.18 mole, 26.9 grams | [I-].[Na+]
solvent | n-butanone | 300 mL | CC(CC)=O | C4H8O
product | 3-amino-2-cyano-6-iodopyridine | NC=1C(=NC(=CC1)I)C#N | C6H4IN3
